US06740777B2
To a solution of 3-ethenyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester (0.85 g, 2.9 mmol) in benzene (10 mL) was added thioacetic acid (2.1 mL, 29.4 mmol) followed by AIBN (0.053 g, 0.32 mmol). The solution was deoxygenated for 30 min by bubbling nitrogen through the solution and then heated at reflux for 4 h. Saturated aqueous NaHCO3 (20 mL) was added to the solution and the mixture was extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography (1:12 EtOAc/hexanes) to give 3-[2-(acetylthio)ethyl]-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester (0.51 g, 48%) as an off white solid: 1H NMR (CDCl3) δ2.35 (s, 3H), 2.93 (m, 2H), 3.14 (m, 2H), 3.62 (s, 3H), 3.93 (s, 3H), 7.29 (dd, J=7.6, 0.9 Hz, 1H), 7,35 (dd, J=7.5, 0.8 Hz, 1H), 7.44 (d, J=7.6 Hz, 1H), 7.48 (d, J=7.5 Hz, 1), 7.55 (dt, J=8.0, 1.5 Hz, 1H), 8.03 (dt, J=7.9, 1.5 Hz, 1H), 8.07 (t, J=1.5 Hz, 1H).

reactant | 3-ethenyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester | 2.9 mmol, 0.85 g | C(=C)C1=C(C(=CC=C1)C1=CC(=CC=C1)C(=O)OC)C(=O)OC | C18H16O4
reactant | thioacetic acid | 29.4 mmol, 2.1 mL | C(C)(=S)O | C2H4OS
reactant | AIBN | 0.32 mmol, 0.053 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 3-[2-(acetylthio)ethyl]-[1,1′-biphenyl]-2,3′-dicarboxylic acid, dimethyl ester | 0.51 g, 48% | C(C)(=O)SCCC1=C(C(=CC=C1)C1=CC(=CC=C1)C(=O)OC)C(=O)OC | C20H20O5S
